US04478833
8-(N-Benzyl-methylamino)-2-(2-hydroxyethyl-amino)-4-(1-oxido-thiomorpholino)-pyrimido[5,4-d]pyrimidine
8.1 gm (0.02 mol) of 8-(N-benzyl-methylamino)-2-chloro-4-(1-oxido-thiomorpholino)-pyrimido[5,4-d]pyrimidine (melting point: 158°-160° C.) were heated at about 90° C. for one hour with 12.2 gm (0.2 mol) of 2-hydroxyethyl-amine. The mixture thus obtained was taken up in about 250 ml of water, whereby the reaction product separated out as a precipitate which soon solidified. It was filtered off, washed with water and dried at about 60° C. Yield: 8.2 gm (96% of theory).

reactant | 8-(N-benzyl-methylamino)-2-chloro-4-(1-oxido-thiomorpholino)-pyrimido[5,4-d]pyrimidine | 0.02 mol, 8.1 gm | C(C1=CC=CC=C1)N(C1=NC=NC2=C1N=C(N=C2N2CCS(CC2)=O)Cl)C | C18H19ClN6OS
reactant | 2-hydroxyethyl-amine | 0.2 mol, 12.2 gm | OCCN | C2H7NO
solvent | water | about 250 ml | O | H2O
product | 8-(N-Benzyl-methylamino)-2-(2-hydroxyethyl-amino)-4-(1-oxido-thiomorpholino)-pyrimido[5,4-d]pyrimidine | C(C1=CC=CC=C1)N(C1=NC=NC2=C1N=C(N=C2N2CCS(CC2)=O)NCCO)C | C20H25N7O2S
